Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Lung Cancer with obstruction and collapse  

 
Major Surgical or Invasive Procedure:
Bronchoscopy with tumor ablation
Intubation
 
History of Present Illness:
___ is a ___ year old female with h/o recent diagnosis 
of L lung mass of pleomorphic undifferentiated carcinoma on XRT, 
lung adenocarcinoma s/p R middle and lower lobectomy in ___ and 
___, admitted to the ICU at ___ on ___ with hypoxia 
requiring intubation. On morning of ___, she was found with 
altered mental status and hypoxic to O2 sat 60% on 3LNC. She was 
placed on 5L NC with O2 sat improving only to 73%, received 
125mg Solumedrol and Lovenox ___ SC for suspicion of PE. 
Transferred to ___ ED for hypoxia where she was 
intubated. Coffee-grounds seen in OGT and patient is stool 
guaiac positive. Underwent a thoracentesis that drained 600cc 
transudative fluid. On ___, she self-extubated and 
desaturated to the ___. She began to desaturate to the high ___, 
had increased work of breathing, and decreased left sided chest 
wall rise. She was re-intubated prior to transfer.  
 
She has a left endobronchial lesion in left bronchus. LLL 
completely obstructed. Mobile polypoid obstruction at takeoff to 
___. Open with PEEP, closes off PEEP. Ultimate goal is 
palliative care. Needs Rx of occlusive lesion, so transferred 
here for IP procedure.  
In early ___, patient had admission for hypoxemic 
respiratory failure, where she was intubated and found to have L 
hemithorax collapse, then had bronchoscopy revealing large LLL 
clot vs mass so transferred to ___ in event that she may require 
___ embolization for hemoptysis given hx of prior TEVAR. At ___ 
she had urgent bronchoscopy showing pedunculated mass of L main 
bronchus bifurcation. Small pedunculated section of mass was 
removed with subsequent re-expansion of LUL with residual LLL 
collapse, extubated on ___. Biopsy of mass showed 
pleomorphic/undifferentiated carcinoma. XRT was initiated on 
___ with plan for total 14 day course of treatment. There 
was concern of aortobronchial fistula given hemoptysis but 
thought to be unlikely as her hemoptysis resolved and H/H 
stable. Aortogram not pursued because of ___. PET-CT and brain 
MRI done for staging. Brain MRI showed two punctate foci of 
enhancement within right middle frontal gyrus and right 
cerebellum that are indeterminate in nature but differential 
included subacute embolic infarct versus metastasis. PET-CT 
showed high FDG uptake associated with LUL mass, LLL mass in 
atelectatic LLL involving the left hilum, consistent with 
malignancy; mild FDG uptake associated with the anterior LUL and 
lingula groundglass opacities (inflammatory/ infectious etiology 
vs lymphangitic tumor spread). Hemoptysis resolved by discharge. 
She also had positive C. diff, on vancomycin 125mg q6H with end 
date ___. She also had ___ thought to be pre-renal 
azotemia. She was then transferred to ___ on 
___ for rehabilitation to improve overall function.  
On arrival to the MICU, patient is intubated and sedated. She 
has poor air movement. She has paradoxical breathing pattern.  
Review of systems:  
(+) Per HPI  

 
Past Medical History:
poorly differentiated papillary urothelial carcinoma s/p L 
ureto-nephrectomy and adjuvant chemo in ___  
COPD not on home O2  
systolic CHF (LVEF 40%)  
TAA with type II dissection s/p TEVAR in ___  
CAD  
___ (Cr 1.1-1.3)  
C diff: last day ___  
Anemia (Hct 24%)  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- Afebrile, 154/70, 70, 100% vent settings  
General- intubated, sedated, opening eyes to voice  
HEENT- equal pupils, minimally reactive, neck supple  
Neck - JVD not appreciated  
CV- quiet heart sounds, no murmrus appreciated  
Lungs- decreased breath sounds bilateral bases, minimal air 
movement left upper lobs, rhonchi on right anteriorly  
Abdomen- large ventral hernia without obstruction  
GU- Foley  
Ext- no edema  
Neuro- opens eyes to voice, not following commands, MAE  

DISCHARGE PHYSICAL EXAM:
DECEASED
 
Pertinent Results:
ADMISSION LABS:
====================
___ 03:49AM BLOOD WBC-6.5 RBC-2.72* Hgb-7.8* Hct-24.5* 
MCV-90 MCH-28.7 MCHC-31.9 RDW-14.7 Plt ___
___ 03:49AM BLOOD ___ PTT-30.3 ___
___ 03:49AM BLOOD Plt ___
___ 03:49AM BLOOD Glucose-65* UreaN-29* Creat-1.5* Na-137 
K-4.0 Cl-105 HCO3-21* AnGap-15
___ 03:49AM BLOOD estGFR-Using this
___ 03:49AM BLOOD Calcium-7.4* Phos-3.6 Mg-2.0
___ 05:04AM BLOOD ___ pO2-59* pCO2-49* pH-7.28* 
calTCO2-24 Base XS--3
___ 05:04AM BLOOD Lactate-0.7

DISCHARGE LABS:
====================
___ 03:38AM BLOOD WBC-6.1 RBC-2.76* Hgb-8.2* Hct-24.6* 
MCV-89 MCH-29.7 MCHC-33.3 RDW-14.8 Plt ___
___ 03:38AM BLOOD Plt ___
___ 03:38AM BLOOD Glucose-57* UreaN-28* Creat-1.4* Na-138 
K-3.9 Cl-108 HCO3-20* AnGap-14
___ 03:38AM BLOOD Calcium-7.3* Phos-3.3 Mg-2.1
___ 03:49AM BLOOD ___ pO2-41* pCO2-43 pH-7.33* 
calTCO2-24 Base XS--3

MICROBIOLOGY:
====================

IMAGING:
===================
CXR ___:
FINDINGS:  The patient is intubated.  The tip of the 
endotracheal tube 
projects 6 cm above the carina.  Patient also has a nasogastric 
tube in correct position and a right-sided PICC line.  In 
addition, the patient has an aortic stent graft.  Moderate 
cardiomegaly.  Moderate right pleural effusion with both apical 
and a basal component.  Retrocardiac atelectasis.  Perihilar 
opacity on the left of unclear origin, that should receive 
attention on followup examinations.  No overt pulmonary edema.  
No pneumothorax. 

CXR ___:
FINDINGS:  As compared to the previous radiograph, the patient 
has been extubated.  The lung volumes have decreased.  The PICC 
line and the aortic stent graft are in unchanged position.  
There is increasing opacity in the right lung, in part due to 
patient rotation; however, the presence of new parenchymal 
opacity cannot be excluded.  Short-term repeat followup 
radiograph should be performed.  No pneumothorax.  Moderate 
cardiomegaly persists. 

CT CHEST W/O CONTRAST ___:
IMPRESSION:
1.    Left  upper  lobe  rounded  mass  with  lower  
paratracheal  lymphadenopathy  is likely  the  known  primary  
lung  tumor.    The  patient  has  had  right  middle  and right 
 lower  lobectomy  in  ___  and  ___.    Solid  nodule  in  
the  posterior  segment of  the  right  upper  lobe  is  also  
suspicious  for  malignancy.    The  right  upper lobe  bronchus 
 is  patent  as  is  the  left  upper  bronchus  while  the  
left  lower lobe  bronchus  is  completely  obstructed  with  
consequent  complete  collapse  of the  left  lower  lobe.    
2.    There  is  bilateral  non-hemorrhagic  pleural  effusion,  
moderate  to  the  left and  small  to  the  right.
3.    The  patient  is  also  status  post  stenting  of  the  
descending  thoracic  aorta for  type  B  aortic  aneurysm.    
4.    Area  of  ground  glass  with  peribronchovascular  and  
subpleural
consolidation,  mainly  in  the  superior  segment  of  the  
lingula  and  posteriorsegment  of  the  left  upper  lobe,  but 
 also  in  the  posterior  segment  of  the  right upper  lobe  
is  compatible  with  infection. Local  lymphangitic  spread 
cannot  be  excluded  also  in  light  of  mild  FDG  avidity  
in  previously  reported PET-CT.    
5.    Moderate  cardiomegaly  with  severe  coronary  artery  
calcification  and  small non-hemodynamically  significant  
pericardial  effusion.    
6.    Moderate  amount  of  ascites  and  mild  anasarca.    
Right  subclavian  PICC (2:24)  ends  in  upper  SVC.

BRONCHOSCOPY ___:
======================
Impression: Pt brought to OR where GETA was induced and ETT 
exchanged for rigid bronchoscope. Airways examined. Anastomotic 
sites from RLL and RML appeared intact. Endobronchial tumor was 
seen in LMSB resulting in 90% obstruction of lumen. This was 
cryodebrieded. ___
Otherwise normal to tracheobronchial tree 

Additional notes: flexible and rigid bronchoscopy with tumor 
destruction and tumor ablation electrocautery laser 
cryodebriedement  

 
Brief Hospital Course:
___ y/o F with lung cancer with obstructive PNA and lung collapse 
due to endobronchial lesion who is transferred here for 
palliative stent placement and made CMO during course of 
hospitalization given overall general deterioriation that had 
been ongoing for months. Died on ___.

ACTIVE ISSUES:
==============
# GOC
Patient was made CMO during MICU hospitaliztion on ___ in line 
with patient's goals of care. Discussed decision with healthcare 
proxy. While patient was CMO, she was transferred to the floor 
where she was made comfortable with morphine drip, ativan, 
glycopyrolate and scopolamine patch. Pt subsequently died on 
___ at 0657PM. Family was at bedside. Declined autopsy. 
Pastoral and support care was provided to family.

# Lung Cancer: 
Pleimorphic/undifferentiated lung cancer by tissue diagnosis. 
Patient underwent staging PET scan that showed extensive 
pulmonary disease. Also with MRI brain that showed 2 punctate 
lesions that are unknown whether small hemorrhage or foci of 
metastasis. Patient and family have met with palliative care, 
however they wish to keep her full code at that time. Patient 
remaned intubated for the procedure and underwent cryo/laser 
ablation of left upper lobe pedunculated mass near carina. 
Patient tolerated procdure well and was extubated. She had 
moderate distress and was aggresively diuresed with lasix, given 
nebulizers, and placed on CPAP to maintain adequate oxygenation. 
Ultimately, given ongoing respiratory distress, along with 
decision with husband/health care proxy, the patient was made 
comfort measures only.
 
# C diff: 
Held treatment due to comfort focused care 

# Hypertension: 
Patient noted to be hypertensive to 180s/100s in ICU post 
extubation. Home blood pressure medications were restarted and 
patient received IV hydralazine to maintain SBP <160.  
Subsequently these medications were discontinued to to comfort 
focused care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Heparin 5000 UNIT SC BID 
6. Ipratropium Bromide Neb 1 NEB IH Q6H 
7. Multivitamins 1 TAB PO DAILY 
8. Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
9. QUEtiapine Fumarate 12.5 mg PO QHS sleep 
10. Isosorbide Dinitrate 30 mg PO TID 
11. Metoprolol Tartrate 50 mg PO TID 
12. Pravastatin 40 mg PO DAILY 
13. Levothyroxine Sodium 25 mcg PO DAILY 
14. Omeprazole 40 mg PO DAILY 
15. Miconazole Powder 2% 1 Appl TP QID:PRN rash 
16. Morphine SR (MS ___ 15 mg PO Q12H 
17. Vancomycin Oral Liquid ___ mg PO Q6H 
18. Acetaminophen 650 mg PR Q4H:PRN fever 
19. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
20. Morphine Sulfate (Oral Soln.) 10 mg PO Q4H:PRN pain 
21. Nitroglycerin SL 0.3 mg SL PRN chest pain 
22. Ondansetron 8 mg PO Q8H:PRN nausea 
23. Prochlorperazine 10 mg IV Q6H:PRN nausea 
24. Senna 17.2 mg PO DAILY 

 
Discharge Medications:
DECEASED
 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
DECEASED
 
Discharge Condition:
DECEASED
 
Discharge Instructions:
DECEASED
 
Followup Instructions:
___